US06552195B1
2,3-Bis(4-hydroxyphenyl)-quinoxaline-6-carboxylic Acid
Into a 1000 mL three-necked round-bottomed flask equipped with a magnetic stirrer, nitrogen inlet, and a condenser, 2,3-bis(4-methoxyphenyl)-quinoxaline-6-carboxylic acid (34.7 g, 89.8 mmol) was dissolved in acetic acid (260 mL). Hydrobromic acid (500 mL) was then added to the clear, yellow mixture at room temperature. The reaction mixture was heated under reflux with vigorous stirring until the solution become homogeneous. After the red-brown mixture had been allowed to cool down on its own, it was poured into distilled water. The resulting light brown precipitate was collected by suction filtration and dried under the reduced pressure to give 31.9 g (99% crude yield) of yellow solid: mp 319-320° C. (dec.). Anal. Calcd. for C21H14N2O4: C, 70.38%; H, 3.94%; N, 7.82%. Found: C, 66.70%; H, 3.98%; N, 7.20%. FT-IR (KBr, cm−1): 1698, 3396. Mass spectrum (m/e): 358 (M+, 100% relative abundance). 1H-NMR (DMSO-d6, ppm) δ6.76-6.79 (d, 4H, Ar), 7.36-7.40 (dd, 4H, Ar), 8.09-8.12 (d, 1H, Ar), 8.21-8.25 (dd, 1H, Ar), 8.57 (d, 1H, Ar). 13C-NMR (DMSO-d6, δ in ppm): 114.93, 128.84, 129.21, 130.34, 131.11, 131.52, 139.32, 142.03, 153.75, 154.35, 158.44, 166.68.

reactant | 2,3-bis(4-methoxyphenyl)-quinoxaline-6-carboxylic acid | 89.8 mmol, 34.7 g | COC1=CC=C(C=C1)C1=NC2=CC=C(C=C2N=C1C1=CC=C(C=C1)OC)C(=O)O | C23H18N2O4
reactant | Hydrobromic acid | 500 mL | Br | BrH
reactant | KBr | [K+].[Br-]
solvent | acetic acid | 260 mL | C(C)(=O)O | C2H4O2
product | 2,3-Bis(4-hydroxyphenyl)-quinoxaline-6-carboxylic Acid | OC1=CC=C(C=C1)C1=NC2=CC=C(C=C2N=C1C1=CC=C(C=C1)O)C(=O)O | C21H14N2O4
